US04666502
Methyl 3,5-dimethyl-4-nitrothiophene-2-carboxylate
To a well stirred, chilled (0°) solution of 51.4 g (0.3 mol) of methyl 3,5-dimethylthiophene-2-carboxylate in 200 ml of glacial acetic acid are added dropwise over a period of 40 minutes, a mixture of 30 ml of fuming nitric acid (specific gravity=1.5) and 120 ml of acetic anhydride. After the addition is completed the resulting brown solution is stirred a further two hours at 5° and then poured into 3000 ml of ice water.

reactant | methyl 3,5-dimethylthiophene-2-carboxylate | 0.3 mol, 51.4 g | CC1=C(SC(=C1)C)C(=O)OC | C8H10O2S
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 120 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | Methyl 3,5-dimethyl-4-nitrothiophene-2-carboxylate | CC1=C(SC(=C1[N+](=O)[O-])C)C(=O)OC | C8H9NO4S
